US04198509
To a stirred suspension of 11.6 gms. of DL-1-(3-mercapto-1-oxopropyl)-4-methylpiperazine-2-carboxylic acid in 150 ml. of ether there is added dropwise a solution of diazopropane in ether [prepared from 8.75 g. of N'-nitro-N-nitroso-N-propylguanidine by the procedure of McKay et al. Can. J. Res. 28 B, 683(1950)]. The mixture is stirred for an additional three hours, filtered and washed twice with 100 ml. of 5% aqueous sodium bicarbonate solution. The ether solution is dried over anhydrous magnesium sulfate, and then concentrated under atmospheric pressure, leaving as a residue the desired DL-1-(3-mercapto-1-oxopropyl)-4-methylpiperazine-2-carboxylic acid, n-propyl ester.

reactant | 1-(3-mercapto-1-oxopropyl)-4-methylpiperazine-2-carboxylic acid | SCCC(=O)N1C(CN(CC1)C)C(=O)O | C9H16N2O3S
reactant | diazopropane | [N+](=[N-])=CCC | C3H6N2
reactant | N'-nitro-N-nitroso-N-propylguanidine | [N+](=O)([O-])NC(N(CCC)N=O)=N | C4H9N5O3
solvent | ether | CCOCC | C4H10O
product | 1-(3-mercapto-1-oxopropyl)-4-methylpiperazine-2-carboxylic acid, n-propyl ester | SCCC(=O)N1C(CN(CC1)C)C(=O)OCCC | C12H22N2O3S
